US05310951
Methyl 7-(3-chloropropoxy)-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate
Methyl 3,4-dihydro-7-hydroxy-8-propyl-2H-1-benzopyran-2-carboxylate (10 g, 40 mmol), 1-bromo-3-chloropropane (75 g, 48 mmol), and potassium carbonate (828 g, 60 mmol) were added to 100 ml of methyl ethyl ketone, and the reaction mixture was heated to reflux and stirred overnight. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was dried over magnesium sulfate, concentrated, and the crude product was chromatographed on silica gel using 20% ethyl acetate/80% hexane as eluant to give the product.

reactant | Methyl 3,4-dihydro-7-hydroxy-8-propyl-2H-1-benzopyran-2-carboxylate | 40 mmol, 10 g | OC1=C(C2=C(CCC(O2)C(=O)OC)C=C1)CCC | C14H18O4
reactant | 1-bromo-3-chloropropane | 48 mmol, 75 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 60 mmol, 828 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 7-(3-chloropropoxy)-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate | ClCCCOC1=C(C2=C(CCC(O2)C(=O)OC)C=C1)CCC | C17H23ClO4
